US04323708
Onto the bottom of a cylindrical reactor there is placed a chamber made of a foil with the thickness of 100 mcm and the working surface area of 50 cm2. The foil is made of an alloy consisting of 98% by mass of palladium and 2% by mass of rhodium. Commercial hydrogen comprising a mixture of hydrogen with nitrogen (at the volume ratio therebetween of 1:1). Under the pressure of 10 atm is continuously supplied at the rate of 60 ml/min into the chamber. Outside the chamber into the reactor there are charged 300 ml of a 30% aqueous solution of hydrochloric acid and 120 g of 2,4-dinitrophenol. The reactor is heated to the temperature of 110° C. and the pressure therein is increased to 10 atm. Under these conditions the process of hydrogenation is conducted under stirring for 5 hours. After cooling and precipitation with a 37% hydrochloric acid there are obtained 116.9 g of 2,4-diaminophenol hydrochloride which corresponds to 91% based on the starting 2,4-dinitrophenol.

reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | Cl | ClH
reactant | 2,4-dinitrophenol | 120 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4N2O5
catalyst | palladium | [Pd] | Pd
catalyst | rhodium | [Rh] | Rh
product | 2,4-diaminophenol hydrochloride | 116.9 g | Cl.NC1=C(C=CC(=C1)N)O | InChI=1S/C6H8N2O.ClH/c7-4-1-2-6(9)5(8)3-4;/h1-3,9H,7-8H2;1H
